US04369309
3,4-Dihydro-2-(p-methoxyphenyl)aminomethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole:
3,4-Dihydro-2-p-toluenesulfonyloxymethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole in the amount of 1.12 g (3 m mole) was dissolved in 30 ml of chloroform. Then, 0.44 g of p-anisidine (3.6 m mole) and a catalytic amount of sodium hydride were added under ice-cooled stirring conditions. The temperature of the mixture was allowed to rise to room temperature, and then refluxed for 12 hours. The reaction mixture was cooled and washed with water. After drying the chloroform layer over anhydrous magnesium sulfate, chloroform was evaporated under reduced pressure. The residue was chromatographed on silica gel and eluted with chloroform to obtain 0.28 g (yield: 31%) of the intended product, m.p. 155°-157° C.; IR νmaxKBr cm-1 : 3360, 3100-2800, 1430; Anal. Calcd. for C18H19N3OS: C, 66.44; H, 5.88; N, 12.91; S, 9.85; Found: C, 66.91; H, 5.90; N, 12.88; S, 9.70.

reactant | 3,4-Dihydro-2-p-toluenesulfonyloxymethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole | C1(=CC=C(C=C1)S(=O)(=O)OCC1CCN2C(=NC3=C2C=CC=C3)S1)C | C18H18N2O3S2
reactant | p-anisidine | 0.44 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | sodium hydride | [H-].[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,4-Dihydro-2-(p-methoxyphenyl)aminomethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole | 0.28 g, yield: 31% | COC1=CC=C(C=C1)NCC1CCN2C(=NC3=C2C=CC=C3)S1 | C18H19N3OS
